US06204264B1
(2) 3-Amino-4-{[2-(dimethylamino)ethyl]amino}-N-methylbenzamide
10% of palladium-carbon (0.738 g) was added to a solution containing 4-{[2-(dimethylamino)ethyl]amino}-N-methyl-3-nitrobenzamide (3.679 g) in a mixture of ethyl acetate (40 ml) and ethanol (37 ml), and the mixture was stirred for 4.5 hours under a hydrogen gas atmosphere at room temperature. After the catalyst was removed out by filtration, the filtrate was concentrated. The residue, with ethyl acetate added thereto, was washed with 1N sodium hydroxide aqueous solution and saturated brine successively, dried over sodium sulfate anhydride, and concentrated, thereby yielding the entitled compound (2.862 g) as brown solid.

reactant | 4-{[2-(dimethylamino)ethyl]amino}-N-methyl-3-nitrobenzamide | 3.679 g | CN(CCNC1=C(C=C(C(=O)NC)C=C1)[N+](=O)[O-])C | C12H18N4O3
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 37 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 0.738 g | [C].[Pd]
product | 3-Amino-4-{[2-(dimethylamino)ethyl]amino}-N-methylbenzamide | 2.862 g | NC=1C=C(C(=O)NC)C=CC1NCCN(C)C | C12H20N4O
